US06562828B1
7-[2-[4-Cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine Dihydrochloride
To a solution of 7-[2-[4-cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline (70 mg) in dimethylformamide (5 ml)solution were added diisopropylethylamine (0.1 ml) and 1H-pyrazole-1-carboxamidine hydrochloride (85 mg), and the mixture was stirred at room temperature for 15 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by HPLC (0.05% aquesous trifluoroacetic acid:methanol=1:1). The obtained residue was treated with dil. hydrochloric acid and dried under reduced pressure to give the title compound (67 mg).

reactant | 7-[2-[4-cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline | 70 mg | C(#N)C1(CCN(CC1)C1=CC=NC=C1)CCOC1=CC=C2CCNCC2=C1 | C22H26N4O
reactant | diisopropylethylamine | 0.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 85 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-[2-[4-Cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine Dihydrochloride | 67 mg | Cl.Cl.C(#N)C1(CCN(CC1)C1=CC=NC=C1)CCOC1=CC=C2CCN(CC2=C1)C(=N)N | InChI=1S/C23H28N6O.2ClH/c24-17-23(6-12-28(13-7-23)20-3-9-27-10-4-20)8-14-30-21-2-1-18-5-11-29(22(25)26)16-19(18)15-21;;/h1-4,9-10,15H,5-8,11-14,16H2,(H3,25,26);2*1H
